US08426604B2
5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[methyl-(1-methyl-piperidin-4-yl)-amino]-thiazol-4-one was prepared from 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazolidin-4-one and Methyl-(1-methyl-piperidin-4-yl)-amine following General Procedure C.

reactant | 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazolidin-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)SCC)=O)C=C1)C(F)(F)F | C21H17ClF3N3OS2
reactant | Methyl-(1-methyl-piperidin-4-yl)-amine | CNC1CCN(CC1)C | C7H16N2
product | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[methyl-(1-methyl-piperidin-4-yl)-amino]-thiazol-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N(C2CCN(CC2)C)C)=O)C=C1)C(F)(F)F | C26H25ClF3N5OS
